US05864043
4'-[(2-n-Butyl-6-dimethylaminoaminocarbonylamino-benzimidazol-1-yl)-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
Prepared in analogous manner to Example 58b from 4'-[(2-n-butyl-4-dimethylaminoaminocarbonylamino-benzimidazol-1-yl)-methyl]-2-(1-triphenylmethyl-tetrazol-5-yl)-biphenyl and hydrochloric acid in ether/methanol/methylene chloride.

reactant | 4'-[(2-n-butyl-4-dimethylaminoaminocarbonylamino-benzimidazol-1-yl)-methyl]-2-(1-triphenylmethyl-tetrazol-5-yl)-biphenyl | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=CC=C2NC(=O)NN(C)C | C47H45N9O
reactant | hydrochloric acid | Cl | ClH
reactant | ether methanol methylene chloride | CCOCC.CO.C(Cl)Cl
product | 4'-[(2-n-Butyl-6-dimethylaminoaminocarbonylamino-benzimidazol-1-yl)-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2)NC(=O)NN(C)C | C28H31N9O
